US05256813
174 g (3 mol) of propionaldehyde were added within 1 h to a mixture of 264 g (3 mol) of methyl glyoxylate, 96 g of methanol and 2.7 g (0.03 mol) of sarcosine at 80° C. After the addition was complete the reaction mixture was stirred at 80° C. for 1 h and then distilled under a pressure of 1 mbar in a thin-film evaporator. 417 g of distillate which contained 50.8% methyl 2-hydroxy-3-formylbutanoate and 16.4% methyl formylcrotonate were obtained.

reactant | propionaldehyde | 3 mol, 174 g | C(CC)=O | C3H6O
reactant | methyl glyoxylate | 3 mol, 264 g | C(C=O)(=O)OC | C3H4O3
reactant | sarcosine | 0.03 mol, 2.7 g | N(C)CC(=O)O | C3H7NO2
solvent | methanol | 96 g | CO | CH4O
product | methyl formylcrotonate | 16.4% | C(=O)/C(/C(=O)OC)=C\C | C6H8O3
